### PR TITLE
feat(Topology/Covering): fundamental group of the circle is ℤ

### PR DESCRIPTION
**Pull request by Ruizsolveall**
- Proves that the fundamental group of the circle `π₁(S¹, 0)` is isomorphic to `ℤ`, via covering space theory.
- Constructs the winding number map `nLoop : ℤ → Path 0 0` on `AddCircle 1`, and proves it is surjective (`nLoop_surjective`), injective (`nLoop_homotopic_iff`), and additive (`nLoop_add`).
- Assembles these into the group isomorphism `windingNumberIso : Multiplicative ℤ ≃* FundamentalGroup (AddCircle 1) 0`.

## Approach
Uses the covering map `ℝ → AddCircle 1` and unique path lifting to establish the bijection between homotopy classes of loops and integers (winding numbers). Homotopy invariance of lifted endpoints gives injectivity; surjectivity follows from lifting arbitrary loops. Additivity uses path concatenation of lifts in the simply connected total space `ℝ`.

## AI disclosure
I used Claude (Anthropic) to write the PR description, code comments, and to help refine code style. The proof strategy and all Lean code are my own. I understand and can vouch for all the code in this PR.

### CODE REVIEW

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 1]
```diff
@@ -0,0 +1,275 @@
...
+
+open unitInterval
+
+namespace AddCircle
+
+/-- The unit circle, `ℝ / ℤ`. -/
+abbrev uc := AddCircle (1 : ℝ)
+
+/-- The covering map `ℝ → ℝ/ℤ`. -/
+abbrev covMap : ℝ → uc := ((↑) : ℝ → uc)
```
Comment (b-mehta) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: Let's avoid making these abbrevs, and just inline them where you need them

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 2]
```diff
@@ -0,0 +1,275 @@
...
+
+theorem isCoveringMap_covMap : IsCoveringMap covMap :=
+  AddCircle.isCoveringMap_coe 1
+
+/-- The constant loop at `0 : uc`. -/
+def zeroLoop : Path (0 : uc) 0 where
```
Comment (b-mehta) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: I think this is a special case of `Path.refl`; are you sure you need this version?

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 3]
```diff
@@ -0,0 +1,275 @@
...
+  toFun := 0
+  source' := by simp
+  target' := by simp
+  continuous_toFun := continuous_zero
+
+/-- The loop `ωₙ` in `uc` that winds `n` times, defined as `t ↦ n • t`.
+  This is the representative loop in each homotopy class. -/
+def nLoop (n : ℤ) : Path (0 : uc) 0 where
```
Comment (b-mehta) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: (But, in contrast to the previous, I think having this one is useful)

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 4]
```diff
@@ -0,0 +1,275 @@
...
+    = ⟨linearLift n, continuous_linearLift n⟩ := by
+  symm
+  rw [IsCoveringMap.eq_liftPath_iff']
+  refine ⟨funext fun ⟨t, ht⟩ => ?_, by simp [linearLift]⟩
+  simp only [Function.comp_apply, ContinuousMap.coe_mk, linearLift, covMap, nLoop]
+  rw [show (↑n : ℝ) * t = n • t from by rw [← smul_eq_mul, Int.cast_smul_eq_zsmul],
+    AddCircle.coe_zsmul]
+
+/-- The lift of `zeroLoop` to `ℝ` starting at `0` is the constant path at `0`. -/
+private lemma liftPath_zeroLoop :
```
Comment (b-mehta) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: I think you can remove this, or prove it using `liftPath_nLoop` instead

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 5]
```diff
@@ -0,0 +1,275 @@
...
+      by rw [← smul_eq_mul, Int.cast_smul_eq_zsmul]]; rfl
+  -- Each piece projects correctly (abstract over I to avoid Set.projIcc coercion issues)
+  have covMap_p1 : ∀ u : I, covMap (p1 u) = (nLoop m) u := fun u => by
+    dsimp only [p1, Path.coe_mk_mk, linearLift, covMap, nLoop]
+    rw [show (↑m : ℝ) * ↑u = m • (↑u : ℝ) from by rw [← smul_eq_mul, Int.cast_smul_eq_zsmul]]
+    rfl
+  have covMap_p2 : ∀ u : I, covMap (p2 u) = (nLoop n) u := fun u => by
+    dsimp only [p2, Path.coe_mk_mk, covMap, nLoop]
+    rw [show (↑m : ℝ) + (↑n : ℝ) * ↑u = (↑n : ℝ) * ↑u + (↑m : ℝ) from by ring]
+    rw [show (↑n : ℝ) * ↑u = n • (↑u : ℝ) from by rw [← smul_eq_mul, Int.cast_smul_eq_zsmul]]
```
Comment (b-mehta) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: The `rw [show` pattern is a bit weird, can we use a calc block for this instead?

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 6]
```diff
@@ -0,0 +1,275 @@
...
+
+namespace AddCircle
+
+/-- The unit circle, `ℝ / ℤ`. -/
+abbrev uc := AddCircle (1 : ℝ)
+
+/-- The covering map `ℝ → ℝ/ℤ`. -/
+abbrev covMap : ℝ → uc := ((↑) : ℝ → uc)
+
+theorem isCoveringMap_covMap : IsCoveringMap covMap :=
```
Comment (b-mehta) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: I think we don't need to have this as a separate theorem, and we can use `AddCircle.isCoveringMap_coe 1` where needed

**Review by b-mehta — COMMENTED** [review]
I've left a few comments which are mostly about style rather than the content

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 7]
```diff
@@ -0,0 +1,275 @@
...
+
+/-- Preimages of `0 : uc` under the covering map are exactly the integers. -/
+lemma covMap_eq_zero_iff (k : ℝ) : covMap k = 0 → ∃ (n : ℤ), k = (n : ℝ) := by
+  intro h1
+  rw [covMap, AddCircle.coe_eq_zero_iff] at h1
+  rcases h1 with ⟨n, hn⟩
+  exact ⟨n, by simp at hn; linarith⟩
+
+/-- The linear multiplication function `t ↦ n * t` on `I → ℝ`. -/
+abbrev linearLift (n : ℤ) := fun (t : I) ↦ (n : ℝ) * t
```
Comment (vihdzp) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: I think this also falls under "unneeded abbreviation".

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 8]
```diff
@@ -0,0 +1,275 @@
...
+  exact ⟨{
+    toFun := fun (t, s) => covMap (H_R (t, s))
+    continuous_toFun := isCoveringMap_covMap.continuous.comp H_R.continuous_toFun
+    map_zero_left := fun s => by simp [H_R.apply_zero, covMap_concat]
+    map_one_left := fun s => by simp [H_R.apply_one, covMap_mn]
+    prop' := fun t s hs => by
+      rcases hs with rfl | (rfl : s = 1)
+      · simp
+      · simp [hx] }⟩
+
```
Comment (vihdzp) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]:
```suggestion
```

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 9]
```diff
@@ -0,0 +1,275 @@
...
+  -- Project the homotopy down to uc via covMap
+  have hx : covMap ((↑m : ℝ) + ↑n) = 0 := by
+    rw [show (↑m : ℝ) + ↑n = ↑(m + n) from by push_cast; ring]
+    exact covMap_intCast (m + n)
+  exact ⟨{
+    toFun := fun (t, s) => covMap (H_R (t, s))
+    continuous_toFun := isCoveringMap_covMap.continuous.comp H_R.continuous_toFun
+    map_zero_left := fun s => by simp [H_R.apply_zero, covMap_concat]
+    map_one_left := fun s => by simp [H_R.apply_one, covMap_mn]
+    prop' := fun t s hs => by
```
Comment (vihdzp) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]:
```suggestion
    map_zero_left s := by simp [H_R.apply_zero, covMap_concat]
    map_one_left s := by simp [H_R.apply_one, covMap_mn]
    prop' t s hs := by
```

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 10]
```diff
@@ -0,0 +1,275 @@
...
+  symm
+  rw [IsCoveringMap.eq_liftPath_iff']
+  constructor
+  · ext ⟨t, ht⟩
+    simp [Function.comp_apply, covMap, zeroLoop]
+  · simp
+
+/-- **Surjectivity of the winding number**: every loop at `0` in `uc` is homotopic to
+  `nLoop n` for some integer `n`. -/
+theorem surj_nLoop (ω : Path (0 : uc) 0) : ∃ (n : ℤ), (nLoop n).Homotopic ω := by
```
Comment (vihdzp) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: The name of this theorem seems wrong. `nLoop_surjective` might be better, but this declaration doesn't reference `Surjective`...

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 11]
```diff
@@ -0,0 +1,275 @@
...
+    map_zero_left := fun s => by simp [H_R.apply_zero, covMap_linear]
+    map_one_left := fun s => by simp [H_R.apply_one, covMap_omega]
+    prop' := fun t s hs => by
+      rcases hs with rfl | (rfl : s = 1)
+      · simp
+      · simp }⟩
+
+/-- **Injectivity of the winding number**: if `nLoop n` is homotopic to `zeroLoop`,
+  then `n = 0`. -/
+theorem inj_nLoop (n : ℤ) : (nLoop n).Homotopic zeroLoop → n = 0 := by
```
Comment (vihdzp) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: The name here also seems wrong for similar reasons. Also, why not prove the more general result `(nLoop m).Homotopic (nLoop n) ↔ m = n`?

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 12]
```diff
@@ -0,0 +1,275 @@
...
+    ⟨H⟩ (0 : ℝ) (by simp [covMap]) (by simp [covMap])
+  -- Compute the lift endpoints using our lemmas
+  rw [liftPath_nLoop, liftPath_zeroLoop] at key
+  -- Now key says: linearLift n 1 = 0
+  simp only [ContinuousMap.coe_mk, linearLift, ContinuousMap.const_apply,
+    Set.Icc.coe_one, mul_one] at key
+  exact_mod_cast key
+
+/-- Integer values map to zero under the covering map. -/
+private lemma covMap_intCast (m : ℤ) : covMap (m : ℝ) = 0 := by
```
Comment (vihdzp) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: This can be public and simp, but it should probably go a biit earlier n the file.

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 13]
```diff
@@ -0,0 +1,275 @@
...
+      · simp [hx] }⟩
+
+
+/-- `nLoop 0` is the constant loop at `0`. -/
+private lemma nLoop_zero : nLoop 0 = Path.refl (0 : uc) := by
+  ext t; simp [nLoop]
+
+open CategoryTheory in
+/-- The winding number homomorphism sending `n : ℤ` to the homotopy class `⟦nLoop n⟧`. -/
+noncomputable def windingHom : Multiplicative ℤ →* FundamentalGroup uc 0 where
```
Comment (vihdzp) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: I don't think we need to have both the hom and iso version of this.

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean [hunk 14]
```diff
@@ -0,0 +1,275 @@
...
+  toFun n := FundamentalGroup.fromPath (Path.Homotopic.Quotient.mk (nLoop (Multiplicative.toAdd n)))
+  map_one' := by simp only [toAdd_one, nLoop_zero]; rfl
+  map_mul' a b := by
+    simp only [toAdd_mul, show Multiplicative.toAdd a + Multiplicative.toAdd b =
+      Multiplicative.toAdd b + Multiplicative.toAdd a from add_comm _ _]
+    exact (Quotient.sound (nLoop_add _ _)).symm
+
+open CategoryTheory in
+/-- **The fundamental group of the circle is ℤ.** -/
+noncomputable def fundamentalGroupCircle : Multiplicative ℤ ≃* FundamentalGroup uc 0 :=
```
Comment (vihdzp) [inline Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: What about this?
```suggestion
noncomputable def windingNumberIso : FundamentalGroup uc 0 ≃* Multiplicative ℤ :=
```
It might also be worth making a `windingNumber : FundamentalGroup uc 0 → ℤ` function without the `Multiplicative`, and transferring API over.

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean (hunk 10 above)
Comment (b-mehta) [reply Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: The right fix here might be to explicitly write this as a Surjective statement - mathematically it is proving surjectivity

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean (hunk 11 above)
Comment (b-mehta) [reply Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: Actually I also notice that you don't use this one later; you use `liftPath_apply_one_eq_of_homotopicRel` again. So I'd suggest making the `Injective` statement (and proving it in this way), and using that later

File: Mathlib/Topology/Covering/FundamentalGroupCircle.lean (hunk 14 above)
Comment (Ruizsolveall) [reply Mathlib/Topology/Covering/FundamentalGroupCircle.lean]: Thanks for the suggestion! I tried reversing the direction to `FundamentalGroup ... ≃* Multiplicative ℤ`, but .symm on `MulEquiv.ofBijective` causes Lean to unfold FundamentalGroup to the underlying Quotient type, which breaks Mul instance resolution.

**Comment by SnirBroshi** [comment]
> I'm surprised we didn't have this already!

I could've sworn there was an open PR for this from a few months ago, but I can't find it now :O

**Comment by ocfnash** [comment]
Thank you for working on this, especially as it establishes a really useful result that we want. However I'm afraid I'm going to close this PR because what we really want to do is to develop the general theory sufficiently and then deduce this as a corollary.

What really would be most welcome here would be to do the work required to additivize [IsQuotientCoveringMap.fundamentalGroupEquiv](https://github.com/leanprover-community/mathlib4/blob/10212ec219a35b6f8603f9dd72751931be2a6167/Mathlib/Topology/Homotopy/Lifting.lean#L677) so that we have a lemma to apply to maps satisfying the criterion `IsAddQuotientCoveringMap` and then obtain the result here in about one or two lines.
